* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : inv_x1                                       *
* Netlisted  : Wed Apr 29 15:00:54 2026                     *
* PVS Version: 23.11-s036 Wed Jan 17 18:11:41 PST 2024      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777489253200                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777489253200 B_botTap D_drain_1 S_source_0 4
** N=4 EP=4 FDC=1
M0 D_drain_1 4 S_source_0 B_botTap g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=12.9282 scb=0.0134361 scc=0.000622896 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777489253200

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_777489253201                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_777489253201 B_topTap D_drain_1 S_source_0 4 5
** N=5 EP=5 FDC=1
M0 D_drain_1 4 S_source_0 B_topTap g45p1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=101.688 scb=0.082094 scc=0.0121216 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_777489253201

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: inv_x1                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt inv_x1 IN OUT VDD VSS
** N=4 EP=4 FDC=2
X0 VSS OUT VSS IN nmos1v_CDNS_777489253200 $T=1280 480 0 0 $X=860 $Y=-80
X1 VDD OUT VDD IN VSS pmos1v_CDNS_777489253201 $T=1280 1360 0 0 $X=860 $Y=1160
.ends inv_x1
