* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : inv_x2                                       *
* Netlisted  : Wed Apr 29 20:39:57 2026                     *
* PVS Version: 23.11-s036 Wed Jan 17 18:11:41 PST 2024      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777509596340                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777509596340 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 4 3 1 g45n1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=13.3023 scb=0.0133646 scc=0.000799408 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777509596340

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_777509596341                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_777509596341 1 2 3 4 5
** N=5 EP=5 FDC=1
M0 2 4 3 1 g45p1svt L=4.5e-08 W=4.8e-07 AD=6.72e-14 AS=6.72e-14 PD=1.24e-06 PS=1.24e-06 fw=4.8e-07 sa=1.4e-07 sb=1.4e-07 sca=75.4216 scb=0.0690683 scc=0.00879748 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_777509596341

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: inv_x2                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt inv_x2 3 2 4 1
** N=4 EP=4 FDC=2
X0 1 2 1 3 nmos1v_CDNS_777509596340 $T=1460 460 0 0 $X=1040 $Y=-100
X1 4 4 2 3 1 pmos1v_CDNS_777509596341 $T=1550 2440 0 180 $X=1040 $Y=1280
.ends inv_x2
